US04105681
The 4-isopropoxy-2,3,6-trimethyl-benzyl-triphenylphosphonium chloride employed as the starting material is prepared by the procedure described in Example 18 by alkylation of 2,3,5-trimethylphenol to give 2,3,5-trimethylphenyl isopropyl ether (boiling point 115° C/11 mmHg), by haloformylation of the ether obtained to give 4-isopropoxy-2,3,6-trimethyl-benzyl chloride (nD20 = 1.5433) and by reaction of the latter compound with triphenylphosphine.

reactant | 4-isopropoxy-2,3,6-trimethyl-benzyl-triphenylphosphonium chloride | [Cl-].C(C)(C)OC1=C(C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C1)C)C)C
reactant | 2,3,5-trimethylphenol | CC1=C(C=C(C=C1C)C)O | C9H12O
product | 2,3,5-trimethylphenyl isopropyl ether | C(C)(C)OC1=C(C(=CC(=C1)C)C)C | C12H18O
